US07960560B2
—TBTU (5.1 g, 16.5 mmol), DIPEA (2.9 ml, 16.5 mmol) and cyclopropylamine (2.2 ml, 33 mmol) were added to a solution of BOC-Gly-OH (2.63 g, 15 mmol) in dry dichloromethane (10 ml). After 17 h stirring, the reaction mixture was concentrated under reduced pressure and water was added to the residue. The product was extracted into ethyl acetate. The combined organic phases were washed with an aqueous solution of 2M hydrochloric acid, a saturated aqueous solution of sodium hydrogen carbonate, brine, dried over sodium sulfate and concentrated under reduced pressure to give 2-cyclopropylcarbamoylmethyl-carbamic acid tert-butyl ester (847 mg). The product was used in the following step without further purification.

reactant | DIPEA | 16.5 mmol, 2.9 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | cyclopropylamine | 33 mmol, 2.2 ml | C1(CC1)N | C3H7N
reactant | BOC-Gly-OH | 15 mmol, 2.63 g | N(CC(=O)O)C(=O)OC(C)(C)C | C7H13NO4
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 2-cyclopropylcarbamoylmethyl-carbamic acid tert-butyl ester | 847 mg | C(C)(C)(C)OC(NCC(NC1CC1)=O)=O | C10H18N2O3
